US04894386
E-4-[6-[2-(Propylcarbamoyl)vinyl]indol-1-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)benzamide
A mixture of E-4-[6-[2-(propylcarbamoyl)vinyl]indol-1-ylmethyl]-3-methoxybenzoic acid (0.76 g), 4-dimethylaminopyridine (0.26 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.41 g), and 2-methylbenzenesulfonamide (0.36 g) in methylene chloride (20 ml) was stirred under an atmosphere of nitrogen for 18 hr. Further quantities of 4-dimethylaminopyridine (0.026 g), the carbodiimide (0.041 g), and the sulfonamide (0.036 g) were added, and stirring was continued for a further 5 hr. The mixture was diluted with methylene chloride (40 ml); washed with 1M hydrochloric acid, water (twice) and brine; dried (MgSO4); and evaporated to give a foam. Crystallization from hot acetonitrile provided the title compound (0.75 g, 71%) as an off-white solid; mp 240°-242°.

reactant | E-4-[6-[2-(propylcarbamoyl)vinyl]indol-1-ylmethyl]-3-methoxybenzoic acid | 0.76 g | C(CC)NC(=O)/C=C/C1=CC=C2C=CN(C2=C1)CC1=C(C=C(C(=O)O)C=C1)OC | C23H24N2O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.41 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-methylbenzenesulfonamide | 0.36 g | CC1=C(C=CC=C1)S(=O)(=O)N | C7H9NO2S
reactant | carbodiimide | 0.041 g | N=C=N | CH2N2
catalyst | 4-dimethylaminopyridine | 0.26 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.026 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | E-4-[6-[2-(Propylcarbamoyl)vinyl]indol-1-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)benzamide | 0.75 g, 71% | C(CC)NC(=O)/C=C/C1=CC=C2C=CN(C2=C1)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=C1)OC | C30H31N3O5S
